US08445530B2
3-Acetoxy-4-hydroxy-benzoic acid ethyl ester
3,4-Dihydroxy-benzoic acid ethyl ester (550 mg, 3.02 mmol) was dissolved in DMF (5 ml), potassium tert-butoxide (210 mg, 2.87 mmol) was added and the mixture stirred for 10 min. Acetic anhydride (339 mg, 3.32 mmol) was added and stirring continued for 10 min. The mixture was partitioned between EA and 2 N hydrochloric acid, and the aqueous phase extracted with EA. The combined organic phases were dried over sodium chloride, decanted and evaporated to dryness. The residue was purified by RP HPLC (water/ACN gradient).

reactant | 3,4-Dihydroxy-benzoic acid ethyl ester | 3.02 mmol, 550 mg | C(C)OC(C1=CC(=C(C=C1)O)O)=O | C9H10O4
reactant | potassium tert-butoxide | 2.87 mmol, 210 mg | CC(C)([O-])C.[K+]
reactant | Acetic anhydride | 3.32 mmol, 339 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-Acetoxy-4-hydroxy-benzoic acid ethyl ester | C(C)OC(C1=CC(=C(C=C1)O)OC(C)=O)=O | C11H12O5
